US05705516
3-Mercapto-1,2,4-benzotriazine was prepared from 3-hydroxy-1,2,4-benzotriazine and 6-methyl-1,2,3-triazine-5(4H)-thione from 6-methyl-1,2,3-triazine-5(4H)-one following essentially the above procedure.

reactant | 3-hydroxy-1,2,4-benzotriazine | OC=1N=NC2=C(N1)C=CC=C2 | C7H5N3O
reactant | 6-methyl-1,2,3-triazine-5(4H)-thione | CC=1C(CN=NN1)=S | C4H5N3S
reactant | 6-methyl-1,2,3-triazine-5(4H)-one | CC=1C(CN=NN1)=O | C4H5N3O
product | 3-Mercapto-1,2,4-benzotriazine | SC=1N=NC2=C(N1)C=CC=C2 | C7H5N3S
